US08017630B2
2-[4-Dimethylamino-4-(3-fluorophenyl)cyclohexylidene]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide hydrochloride (Examples 26 and 27)
Trimethylchlorosilane (0.109 ml, 0.86 mmol) was added to a solution of the more polar diastereoisomer of 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexylidene]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide (249 mg, 0.57 mmol) in ethyl methyl ketone (10 ml) and the mixture was stirred at RT for 1.5 h. The hydrochloride which had precipitated out was filtered off with suction and isolated as a colourless solid with an m.p. of 171-174° C. in a yield of 81% (218 mg) (Example 27).

reactant | Trimethylchlorosilane | 0.86 mmol, 0.109 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexylidene]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide | 0.57 mmol, 249 mg | CN(C1(CCC(CC1)=CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC(=CC=C1)F)C | C27H32FN3O
solvent | ethyl methyl ketone | 10 ml | CC(=O)CC | C4H8O
product | 2-[4-Dimethylamino-4-(3-fluorophenyl)cyclohexylidene]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide hydrochloride | Cl.CN(C1(CCC(CC1)=CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC(=CC=C1)F)C | InChI=1S/C27H32FN3O.ClH/c1-19(15-21-18-29-25-10-5-4-9-24(21)25)30-26(32)16-20-11-13-27(14-12-20,31(2)3)22-7-6-8-23(28)17-22;/h4-10,16-19,29H,11-15H2,1-3H3,(H,30,32);1H
